US06534496B1
8-[3-(1-Acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one
A mixed solution of 8-[3-(4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (free base, 0.30 g, 0.96 mmol) and acetic anhydride (0.11 ml, 1.16 mmol) in ethyl acetate (25 ml) was heated at 55-60° C. with stirring for 1 hour. The solvent was then distilled off and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=10:1) to provide the title compound (0.185 g) as colorless powders melting at 160-161° C.

reactant | 8-[3-(4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 0.96 mmol, 0.30 g | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | acetic anhydride | 1.16 mmol, 0.11 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 8-[3-(1-Acetyl-4-piperidinyl)-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 0.185 g | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C21H26N2O3
